US05712274
(±)-4-Cyclohexyl-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid (0.54 g) and triethylamine (0.22 ml) are added to a mixed solvent of dimethylformamide (20 ml) and tetrahydrofuran (10 ml). The mixture is cooled to -5° C. and pivaloyl chloride (0.18 ml) is dropwise added at said temperature. Ten minutes later, a 40% aqueous solution (2 ml) of methylamine is dropwise added at said temperature and the mixture is stirred at room temperature for 2 hours. Water is added to the reaction mixture, and the mixture is extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. The solvent is distilled away under reduced pressure and the residue is recrystallized from ethyl acetate to give (±)-N-methyl-4-cyclohexyl-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetamide, melting point 228°-231° C.

reactant | (±)-4-Cyclohexyl-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid | 0.54 g | C1(CCCCC1)C1=NC(C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)CC(=O)O | C19H24N4O2S
reactant | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.18 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | methylamine | CN | CH5N
solvent | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (±)-N-methyl-4-cyclohexyl-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetamide | CNC(CC1C=2N(C3=C(C(=N1)C1CCCCC1)C(=C(S3)C)C)C(=NN2)C)=O | C20H27N5OS
